US06162927
N-Butyl-N-(3-hydroxypropyl)-chloroacetamide
To an ice cooled solution of 1.31 g (10.0 mmol) of N-butyl,N-(3-hydroxypropyl)amine in 20 mL of ethyl acetate was added a solution of 1.71 g (10.0 mmol) of chloroacetic anhydride in 10 mL of ethyl acetate. The mixture was stirred, and gradually warmed to room termperature over 18 hours. The reaction was extracted with H2O (1×50 mL), saturated NaHCO3 (aq) (2×50 mL), and brine (1×50 mL), dried over MgSO4, filtered, and concentrated to an oil. The product was purified via silica gel chromatography, eluting with 80:20 hexanes:ethyl acetate to give 723 mg (35%) of a light yellow oil.

reactant | N-butyl,N-(3-hydroxypropyl)amine | 10.0 mmol, 1.31 g | C(CCC)NCCCO | C7H17NO
reactant | chloroacetic anhydride | 10.0 mmol, 1.71 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-Butyl-N-(3-hydroxypropyl)-chloroacetamide | 723 mg, 35% | C(CCC)N(C(CCl)=O)CCCO | C9H18ClNO2
